US07592373B2
1.25.a. 3-(4-hydroxymethylphenyl)propynoic acid-(4′-chlorobiphenyl-4-yl)methylamide
Prepared analogously to Example 1.2.a. from 4-iodobenzyl alcohol and propynoic acid-(4′-chlorobiphenyl-4-yl)methylamide. Yield: 0.52 g (90% of theory); C23H18ClNO2 (M=375.85); calc.: molecular ion peak (M+H)+: 376/378; found: molecular ion peak (M+H)+: 376/378; Rf value: 0.4 (silica gel, dichloromethane/methanol/ammonia (10:1:0.1)).

reactant | 4-iodobenzyl alcohol | IC1=CC=C(CO)C=C1 | C7H7IO
reactant | propynoic acid-(4′-chlorobiphenyl-4-yl)methylamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)CNC(C#C)=O | C16H12ClNO
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
product | 3-(4-hydroxymethylphenyl)propynoic acid-(4′-chlorobiphenyl-4-yl)methylamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)CNC(C#CC1=CC=C(C=C1)CO)=O | C23H18ClNO2
